US07790709B2
Preparation of (E)-3-(6-amino-pyridin-3-yl)-N-(2-isopropoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride
EDC (231 mg, 1.2 mmol) was added to a solution of (E)-3-(6-amino-pyridin-3-yl)acrylic acid (164 mg, 1.0 mmol), (2-isopropoxy-3-methoxy-benzyl)methylamine (230 mg, 1.1 mmol), HOBt*H2O (149 mg, 1.1 mmol) and DIPEA (525 μL, 3.0 mmol) in dry DMF (10. L). After 18 hr of stirring, the mixture was diluted with water (60 mL) and extracted with EtOAc (2×20 mL). The organic layer was washed with brine (2×30 mL), dried and evaporated. Flash chromatography (silica 1-3% MeOH in CH2Cl2) of the residue furnished pure free base which was dissolved in CH2Cl2 (10 mL). After addition of HCl (1.5 mL, 1M in ether) the solvents were evaporated; the residue was washed with ether and dried to afford the title compound (180 mg, 46%). 1H NMR (300 MHz, DMSO-d6) 67 8.31 (m, 3H), 7.46 and 7.45 (rotamers, 2d, J=15.4 Hz, 1H), 7.23 and 7.17 (rotamers, 2d, J=15.4 Hz, 1H), 6.99 (m, 3H), 6.62 (m, 1H), 4.76 and 4.63 (rotamers, 2s, 2H), 4.51 (m, 1H), 3.79 (s, 3H), 3.06 and 2.85 (rotamers, 2s, 3H), 1.22 (d, J=6.1 Hz, 3H) 1.21 (d, J=6.1 Hz, 3H). MS (ESI) m/e 356 (M+H)+.

reactant | EDC | 1.2 mmol, 231 mg
reactant | (E)-3-(6-amino-pyridin-3-yl)acrylic acid | 1.0 mmol, 164 mg | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | (2-isopropoxy-3-methoxy-benzyl)methylamine | 1.1 mmol, 230 mg | C(C)(C)OC1=C(CCN)C=CC=C1OC | C12H19NO2
reactant | HOBt | 1.1 mmol, 149 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.0 mmol, 525 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1M, 1.5 mL | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(6-amino-pyridin-3-yl)-N-(2-isopropoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride | 180 mg, 46% | Cl.NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=C(C(=CC=C1)OC)OC(C)C | InChI=1S/C20H25N3O3.ClH/c1-14(2)26-20-16(6-5-7-17(20)25-4)13-23(3)19(24)11-9-15-8-10-18(21)22-12-15;/h5-12,14H,13H2,1-4H3,(H2,21,22);1H/b11-9+;
